US07618961B2
Methyl (2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-5-methyl-1,3-thiazol-4-yl)acetate
The title compound was prepared from methyl 2-(2-amino-5-methyl-1,3-thiazol-4-yl)acetate and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (23.2 mg) with purity >90%. LCMS (pos) m/z 375.2.

reactant | methyl 2-(2-amino-5-methyl-1,3-thiazol-4-yl)acetate | NC=1SC(=C(N1)CC(=O)OC)C | C7H10N2O2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | Methyl (2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-5-methyl-1,3-thiazol-4-yl)acetate | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC(=C(N1)CC(=O)OC)C)C | C14H15ClN2O4S2
